US05280022
A mixture of N-(4-phenoxybutyl)phthalimide (7.8 g), hydrazine hydrate (7 ml) and ethanol (150 ml) was stirred for one hour under reflux. Crystalline precipitate was filtered off, then the filtrate was concentrated under reduced pressure to give 4-phenoxybutylamine (4.2 g, 95%) as an oily product.

reactant | N-(4-phenoxybutyl)phthalimide | 7.8 g | O(C1=CC=CC=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C18H17NO3
reactant | hydrazine hydrate | 7 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-phenoxybutylamine | 4.2 g, 95% | O(C1=CC=CC=C1)CCCCN | C10H15NO
